* D:\GitHub\LASDAC\ltspice\lasdac.asc
V1 V2.5D 0 2.5 Rser=0.5
V2 ViI 0 PWL(0 0 0.997m 0 1m 2.5) Rser=7.5
XU1 0 N012 V12D VN12D VoGneg TL084
XU2 0 N020 V12D VN12D VoBneg TL084
XU3 0 N025 V12D VN12D VoIneg TL084
XU4 0 N008 V12D VN12D VoRneg TL084
R1 N025 ViI 10k tol=1
R2 VoIneg N025 10k tol=1
R3 N020 ViI 10k tol=1
R4 VoBneg N020 10k tol=1
R5 N012 ViI 10k tol=1
R6 VoGneg N012 10k tol=1
R7 N008 ViI 10k tol=1
R8 VoRneg N008 10k tol=1
XU5 N011 V1.25D V12D VN12D V1.25D TL084
R9 V2.5D N011 10k tol=1
R10 N011 0 10k tol=1
C1 N019 0 0.05u
C2 N018 0 0.05u
R11 N016 VoXpos 150 tol=1
L1 N018 N019 500u Rser=100
L2 N019 NC_01 500u Rser=100
R12 0 N016 1meg tol=1
V5 ViY 0 PWL(0 0.4167 0.997m 0.4167 1m 2.0833) Rser=3
XU6 0 N010 V12D VN12D VoXneg TL084
R13 N010 VoXpos 10k tol=1
R14 VoXneg N010 10k tol=1
XU7 N007 N009 V12D VN12D VoXpos TL084
R15 N009 ViY 1.65k tol=1
R16 VoXpos N009 10k tol=1
XU8 0 N014 V12D VN12D VoYneg TL084
R17 N014 VoYpos 10k tol=1
R18 VoYneg N014 10k tol=1
XU9 N007 N013 V12D VN12D VoYpos TL084
R19 N013 ViY 1.65k tol=1
R20 VoYpos N013 10k tol=1
R21 N007 V1.25D 1.65k tol=1
R22 0 N007 10k tol=1
XU10 ViS N024 V12D VN12D VoS TL084
R23 N024 0 10k tol=1
R24 VoS N024 5.11k tol=1
V6 ViS 0 PWL(0 0 0.997m 0 1m 3.3) Rser=3
XU11 N002 0 N005 0 N006 N004 N001 N003 MC34063
R25 N006 0 10k
R26 V12D N006 62k
C3 N005 0 321.4pF
C4 V12D 0 47uF
D1 N002 V12D D
L3 N001 N002 216.5uH
R27 N003 N001 180
R28 N004 N001 20m
C5 N004 0 4.7uF
V7 N004 0 5V
XU12 N015 N017 N022 VN12D N023 N021 N015 N015 MC34063
R30 N023 0 62k
R31 VN12D N023 10k
C6 VN12D 0 47uF
D2 VN12D N017 D
C7 N022 VN12D 257.9pF
L4 N017 0 173.1uH
R32 N015 N021 31m
C8 N021 0 4.7uF
V8 N021 0 5V
.model D D
.lib C:\Program Files (x86)\LTspiceIV\lib\cmp\standard.dio
.tran 10m startup uic
* Simple cable simulation
* Voltage references
* Color channels
* X / Y channels
* Shutter
* Voltage references
.lib MC34063.sub
.lib TL084.lib
.backanno
.end
